US07220865B2
Prop-2-ynyl-cyclopentane (46.2 mmol) was dissolved in 100 mL of anhydrous Et2O under N2 and the reaction was cooled to −78° C. A 2.5 M solution of BuLi in hexanes (55.5 mmol) was added dropwise to the reaction over 30 minutes. The reaction was stirred for an additional 20 minutes and phenyl cyanate (55.5 mmol) was then added in solution with 20 mL of Et2O dropwise over 20 minutes. The resultant solution was allowed to slowly warm to rt and stir for 3 hours. The reaction material was then diluted in 200 mL of fresh Et2O and washed with three 100 mL portions of 1 N aqueous NaOH solution. The organics were then washed with 200 mL of brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified through flash chromatography on silica gel to give 4-cyclopentyl-but-2-ynenitrile (21.7 mmol).

reactant | Prop-2-ynyl-cyclopentane | 46.2 mmol | C(C#C)C1CCCC1 | C8H12
reactant | BuLi | [Li]CCCC
reactant | phenyl cyanate | 55.5 mmol | C1(=CC=CC=C1)OC#N | C7H5NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 4-cyclopentyl-but-2-ynenitrile | 21.7 mmol | C1(CCCC1)CC#CC#N | C9H11N
